US07291632B2
2,4-Difluoro-N-(3-(1-methylpiperidin-4-ylamino)-4-fluorophenyl)benzamide hydrochloride
Using a procedure similar Example 24 using 2,4-difluoro-N-(3-amino-4-fluorophenyl)benzamide (Preparation 16,452 mg, 1.7 mmol), 1-methyl-4-piperidone (384 mg, 0.42 mL, 3.4 mmol), 1,2-dichloroethane (15 mL), powdered molecular sieves 4 Å (1 g), glacial acetic acid (306 mg, 0.3 mL, 5.1 mmol), sodium triacetoxyborohydride (900 mg, 4.25 mmol) to obtain the free base of the title compound (434 mg, 70% yield) and the title compound: mass spectrum (ion spray): m/z=364.1 (M+1); analysis calc'd for C19H20F3N3O.HCl.H2O: C, 54.61; H, 5.55; N, 10.06. Found: C, 54.48; H, 5.36; N, 9.93. 1H NMR δ (methanol-d4) 7.79(m, 1H), 7.63(d, 1H), 7.11(m, 4H), 3.74(m, 1H), 3.62(d, 2H), 3.30(dd, 2H), 2.88(s, 3H), 2.36(d, 2H), 1.93(m, 2H)

reactant | 2,4-difluoro-N-(3-amino-4-fluorophenyl)benzamide | 1.7 mmol, 16,452 mg | FC1=C(C(=O)NC2=CC(=C(C=C2)F)N)C=CC(=C1)F | C13H9F3N2O
reactant | 1-methyl-4-piperidone | 3.4 mmol, 0.42 mL, 384 mg | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | 5.1 mmol, 0.3 mL, 306 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.25 mmol, 900 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 2,4-Difluoro-N-(3-(1-methylpiperidin-4-ylamino)-4-fluorophenyl)benzamide hydrochloride | 434 mg, 70% yield | Cl.FC1=C(C(=O)NC2=CC(=C(C=C2)F)NC2CCN(CC2)C)C=CC(=C1)F | InChI=1S/C19H20F3N3O.ClH/c1-25-8-6-13(7-9-25)23-18-11-14(3-5-16(18)21)24-19(26)15-4-2-12(20)10-17(15)22;/h2-5,10-11,13,23H,6-9H2,1H3,(H,24,26);1H
